US06150522
Step 2A 4-chloro-2-[2-(5-chlorothiophen-2-yl)-acetylamino]-5-iodo-benzoic acid methyl ester
Prepared essentially as described in EXAMPLE 1, Step A from 5.0 g 2-amino-4-chloro-5-iodobenzoic acid methyl ester and 2.8 g (5-chlorothiophen-2-yl)acetyl chloride (also prepared essentially as described in EXAMPLE 1) to give the title compound (5.0 g).

reactant | 2-amino-4-chloro-5-iodobenzoic acid methyl ester | 5.0 g | COC(C1=C(C=C(C(=C1)I)Cl)N)=O | C8H7ClINO2
reactant | (5-chlorothiophen-2-yl)acetyl chloride | 2.8 g | ClC1=CC=C(S1)CC(=O)Cl | C6H4Cl2OS
product | 4-chloro-2-[2-(5-chlorothiophen-2-yl)-acetylamino]-5-iodo-benzoic acid methyl ester | 5.0 g | COC(C1=C(C=C(C(=C1)I)Cl)NC(CC=1SC(=CC1)Cl)=O)=O | C14H10Cl2INO3S
